US06541626B2
The polymer bound cyclohexylurea (PS-DCU; 1 g of 1.25 mmol/g) recovered after N-acylation is suspended in dimethylformamide (DMF; 10 ml) in a two-necked round-bottom flask (50 ml) equipped with a silicone rubber septum and a reverse filter funnel under exclusion of moisture and air. Tosyl chloride (TsCl; 0.47 g, 2.5 mmol) is added slowly over a period of 20 minutes to the above suspension of PS-DCU. The mixture is shaken gently for 8-10 hours and supernatant is removed by reverse filtration and replaced by 10% aqueous NaOH (5 ml) and tetrahydrofuran (20 ml). The suspension is shaken for 1 hour and supernatant is removed. The polymer is washed with tetrahydrofuran (2×25 ml) to remove excess of water, DMF and base and dried under vacuum to furnish PS-DCC.

reactant | cyclohexylurea | 1 g | C1(CCCCC1)NC(=O)N | C7H14N2O
reactant | Tosyl chloride | 2.5 mmol, 0.47 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
product | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
